US04751304
2,3-Dimethoxy-6-nitrobenzoic acid
2,3-Dimethoxy-6-nitrobenzaldehyde (40.0 g, 0.19 mole) was treated with acetone (275 mL) and warmed to 50° C. A solution of potassium permanganate in water (60 g/L) was added slowly at 50°-70° C. over a period of 16-20 hours until thin layer chromatographic analysis revealed complete absence of the starting material. Isopropanol (7.5 mL) was then added and the mixture was heated an additional hour. The precipitated manganese dioxide was removed by filtration and the filter cake was washed with 3% aqueous potassium hydroxide (ca 175-200 mL). The combined filtrates were acidified with hydrochloric acid and the precipitate was collected by filtration and dried in vacuo. The crude product was recrystallized from acetone to give the pure material, 28.3 g (67%), mp 187°-189° C.).

reactant | 2,3-Dimethoxy-6-nitrobenzaldehyde | 0.19 mole, 40.0 g | COC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO5
reactant | acetone | 275 mL | CC(=O)C | C3H6O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Isopropanol | 7.5 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 2,3-Dimethoxy-6-nitrobenzoic acid | COC1=C(C(=O)O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO6
